US06432993B1
t-Butyl N-[2-amino-5-(4-methoxymethoxy-2,3,5-trimethylphenoxy)phenyl]N-methylcarbamate
A mixture of 57.0 g of t-butyl N-[5-(4-methoxymethoxy-2,3,5-trimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate, 3 g of 10% palladium on carbon and 500 ml of methanol was vigorously stirred at room temperature for 8 hours under a hydrogen atmosphere. The palladium on carbon in the reaction mixture was filtered off and the filtrate was concentrated by evaporation. The residue was purified by chromatography through a silica gel column (eluting solvent: n-hexane/ethyl acetate=3/1), whereby 52.5 g of the title compound were obtained.

reactant | t-butyl N-[5-(4-methoxymethoxy-2,3,5-trimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate | 57.0 g | COCOC1=C(C(=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1C)C)C | C23H30N2O7
catalyst | palladium on carbon | 3 g | [Pd] | Pd
solvent | methanol | 500 ml | CO | CH4O
product | t-Butyl N-[2-amino-5-(4-methoxymethoxy-2,3,5-trimethylphenoxy)phenyl]N-methylcarbamate | 52.5 g | NC1=C(C=C(C=C1)OC1=C(C(=C(C(=C1)C)OCOC)C)C)N(C(OC(C)(C)C)=O)C | C23H32N2O5
